US09210927B2
Preparation of (E)-N-(4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-enyl)benzyl)acetamide (CC1)
To a stirred solution of (E)-(2-chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl) methanamine (0.3 g, 0.8 mmol) in CH2Cl2 (10 mL) was added acetic anhydride (0.12 mL, 1.14 mmol), and TEA (0.217 mL, 1.52 mmol), and the resultant reaction mixture was stirred at ambient temperature for 6 h. The reaction mixture was diluted with H2O and extracted with CH2Cl2. The combined CH2Cl2 layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; 30-50% ethyl acetate in hexane) afforded the title compound as an off-white solid (0.2 g, 60%) mp 107-109° C.; 1H NMR (400 MHz, CDCl3) δ 7.37 (m, 3H), 7.28 (m, 4H), 6.60 (d, J=16.0 Hz, 1H), 6.36 (dd, J=16.0, 8.0 Hz, 1H), 5.75 (br s, 1H), 4.46 (d, J=6 Hz, 2H), 4.01 (m, 1H), 2.11 (s, 3H); ESIMS m/z 402.00 ([M+H]+).

reactant | (E)-(2-chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl) methanamine | 0.8 mmol, 0.3 g | ClC1=C(C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)CN | C17H13Cl3F3N
reactant | acetic anhydride | 1.14 mmol, 0.12 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (E)-N-(4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-enyl)benzyl)acetamide | 0.2 g, 60% | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC=C(CNC(C)=O)C=C1)C(F)(F)F | C19H16Cl2F3NO
